US04891447
To a suspension of copper(I) iodide (6.0 g, 0.032 mol) in tetrahydrofuran (120 mL) cooled to 0° C. was added a methyllithium solution (45 mL of a 1.4M solution in diethyl ether, 0.063 mol). After stirring 0.5 hour, 3-(3-methoxy-3-methylbutyl)-5-methylcyclohex-5-en-1-one (2.0 g, 0.0095 mL) in tetrahydrofuran (80 mL) was slowly added. After stirring 2.5 hours, the mixture was added to ice cold dilute hydrochloric acid. Subsequent workup yielded 3-(3-methoxy-3-methylbutyl)-5,5-dimethylcyclohexan-1-one, bp0.5 125°-130° C. (1.3 g); NMR (CDCl3)δ0.9(s,3H), 1.1(s,3H), 1.1(s,6H), 1.2-1.6(m,6H), 1.6-2.5(m,5H), 3.2(s,3H); IR(neat) 2960, 1715, 1365, 1085 cm-1. MS(m/e) 41, 55, 73, 138, 161, 211, 212.

reactant | methyllithium | C[Li]
reactant | 3-(3-methoxy-3-methylbutyl)-5-methylcyclohex-5-en-1-one | 0.0095 mL, 2.0 g | COC(CCC1CC(C=C(C1)C)=O)(C)C | C13H22O2
solvent | tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
catalyst | copper(I) iodide | 0.032 mol, 6.0 g | [Cu]I
product | 3-(3-methoxy-3-methylbutyl)-5,5-dimethylcyclohexan-1-one | COC(CCC1CC(CC(C1)(C)C)=O)(C)C | C14H26O2
